US06964966B2
A mixture of 20% Pd(OH)2 on carbon (0.15 g) and 1-benzyl-4-methylamino-3,3-dimethylpiperidine (0.5 g, 2.1 mmol) in methanol (10 ml) was stirred in hydrogen atmosphere (1 atm.) at 60° C. for 6 hr. The catalyst was filtered off, washed with methanol and filtrate was concentrated to dryness to afford 4-methylamino-3,3-dimethyl-piperidine. Yield 0.3 g (99%), C8H18N2, m/z 143 (M+1), PMR (CDCl3): 0.88 (s, 6H), 1.24 (m, 2H), 1.8 (bs, 2H, D2O exchangeable), 1.8 (m, 1H), 2.1 (m, 1H), 2.4 (s, 3H), 2.6 (d, 2H), 2.86 (m, 1H).

reactant | 1-benzyl-4-methylamino-3,3-dimethylpiperidine | 2.1 mmol, 0.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)NC)(C)C | C15H24N2
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd(OH)2 on carbon | 0.15 g | [OH-].[OH-].[Pd+2]
product | 4-methylamino-3,3-dimethyl-piperidine | CNC1C(CNCC1)(C)C | C8H18N2
